US07598383B2
Step D: Preparation of 4-(2-fluoro-4-methylphenylamino)-1,2,5-trimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid cyclopropylmethoxy-amide:
O-cyclopropylmethyl-hydroxylamine (0.046 g, 0.527 mmol) was added to a solution of 4-(2-fluoro-4-methylphenylamino)-1,2,5-trimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester (0.070 g, 0.211 mmol) in THF (2 mL). The solution was cooled to 0° C. and lithium bis(trimethylsilyl)amide (1.05 mL, 1 M solution in hexanes) was added dropwise. The reaction mixture was warmed to room temperature. After stirring for 1 hour, the reaction was quenched by addition of a saturated aqueous solution of NaHCO3 and partitioned between EtOAc and brine. The aqueous layer was reextracted with EtOAc. The combined organic extracts were dried (Na2SO4) and concentrated. Purification by flash column chromatography (30:1 methylene chloride/MeOH) gave 0.032 g (40%) desired product as a yellow solid; MS ESI (+) m/z 374 (M+1) detected; 1H NMR (400 MHz, CD3OD) δ 6.91 (d, 1H), 6.83 (d, 1H), 6.63 (t, 1H), 3.59 (s, 3H), 3.47 (d, 2H), 2.41 (s, 3H), 2.27 (s, 3H), 1.86 (s, 3H) 0.99 (m, 1H) 0.48 (m, 2H) 0.18 (m, 2H). 19F (376 MHz, CD3OD) −132.1 (s, 1F).

reactant | O-cyclopropylmethyl-hydroxylamine | 0.527 mmol, 0.046 g | C1(CC1)CON | C4H9NO
reactant | 4-(2-fluoro-4-methylphenylamino)-1,2,5-trimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester | 0.211 mmol, 0.070 g | C(C)OC(=O)C1=C(N(C(C(=C1NC1=C(C=C(C=C1)C)F)C)=O)C)C | C18H21FN2O3
reactant | lithium bis(trimethylsilyl)amide | 1 M, 1.05 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-(2-fluoro-4-methylphenylamino)-1,2,5-trimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid cyclopropylmethoxy-amide | 0.032 g, 40% | C1(CC1)CONC(=O)C1=C(N(C(C(=C1NC1=C(C=C(C=C1)C)F)C)=O)C)C | C20H24FN3O3
